US07265131B2
A solution of 4-methylbenzylamine (2.0 mL, 15.7 mmol), and triethylamine (4.4 mL, 31.6 mmol) in CH2Cl2 (50 mL) was cooled in an ice bath and treated dropwise with 2-methylbenzoyl chloride (2.5 mL, 19.2 mmol). After the end of the addition the ice bath was removed and the reaction mixture was allowed to warm to ambient temperature. After stirring at ambient temperature for 14 hours the resulting white suspension was diluted with CH2Cl2 (100 mL), and quenched by the addition of water (20 mL) and saturated aqueous sodium bicarbonate (20 mL). The aqueous layer was extracted with CH2Cl2 (3×30 mL), and the combined organics were dried over Na2SO4, filtered and concentrated to afford a white solid. The crude solid was recrystallized from ethyl acetate/hexane to afford 2-methyl-N-(4-methylbenzyl)benzamide (3.18 g, 85% yield) as a white crystalline solid: 1H-NMR (400 MHz, CDCl3): δ 7.36 (1H, dd, J=7.6, 1.3 Hz), 7.32-7.14 (7H, m), 5.98 (1H, br s), 4.59 (2H, d, J=5.6 Hz), 2.47 (3H, s), 2.35 (3H, s) ppm.

reactant | 4-methylbenzylamine | 15.7 mmol, 2.0 mL | CC1=CC=C(CN)C=C1 | C8H11N
reactant | triethylamine | 31.6 mmol, 4.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2-methylbenzoyl chloride | 19.2 mmol, 2.5 mL | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-methyl-N-(4-methylbenzyl)benzamide | 3.18 g, 85% yield | CC1=C(C(=O)NCC2=CC=C(C=C2)C)C=CC=C1 | C16H17NO
